US07915347B2
Preparation of a poly(methyl methacrylate/methyl acrylate/acrylic acid) polymer
90 g of methyl methacrylate, 90 g of ethyl acetate and 1.2 g of 2,5-bis(2-ethylhexanoylperoxy)-2,5-dimethylhexane were then introduced into the above mixture, still at 78° C. and over 1 hour.

reactant | methyl methacrylate | 90 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | 2,5-bis(2-ethylhexanoylperoxy)-2,5-dimethylhexane | 1.2 g | C(C)C(C(=O)OOC(C)(CCC(C)(C)OOC(C(CCCC)CC)=O)C)CCCC | C24H46O6
solvent | ethyl acetate | 90 g | C(C)(=O)OCC | C4H8O2
product | methyl methacrylate methyl acrylate acrylic acid | C(C(=C)C)(=O)OC.C(C=C)(=O)OC.C(C=C)(=O)O | InChI=1S/C5H8O2.C4H6O2.C3H4O2/c1-4(2)5(6)7-3;1-3-4(5)6-2;1-2-3(4)5/h1H2,2-3H3;3H,1H2,2H3;2H,1H2,(H,4,5)
